US09302991B2
<Step-1>: methyl 2-(1-methylcyclopropanecarboxamido)isonicotinate
The title compound is prepared in 86% yield (0.30 g, a white solid) from methyl 2-chloroisonicotinate (0.25 g, 1.46 mmol) and 1-methylcyclopropanecarboxamide by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloroisonicotinate | 1.46 mmol, 0.25 g | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | 1-methylcyclopropanecarboxamide | CC1(CC1)C(=O)N | C5H9NO
product | methyl 2-(1-methylcyclopropanecarboxamido)isonicotinate | 86% yield | CC1(CC1)C(=O)NC=1C=C(C(=O)OC)C=CN1 | C12H14N2O3
